US05773530
To a solution of 3-[2-(2-t-butoxycarbonylmethyl-1-cycloheptenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.15 g) in dry dichloromethane (0.5 ml) at room temperature was added trifluoroacetic acid (0.46 ml). After stirring for one day at room temperature, the solution was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate. The separated aqueous layer was acidified with 1N-hydrochloric acid to pH 3 and extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from ethanol--water to give 3-[2-(2-carboxymethyl-1-cycloheptenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]- pyridine (0.083 g).

reactant | 3-[2-(2-t-butoxycarbonylmethyl-1-cycloheptenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.15 g | C(C)(C)(C)OC(=O)CC1=C(CCCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C30H32N4O3
reactant | trifluoroacetic acid | 0.46 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 3-[2-(2-carboxymethyl-1-cycloheptenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]- pyridine | 0.083 g | C(=O)(O)CC1=C(CCCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C26H24N4O3
